US07507736B2
[6-Bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-(4-methanesulfonyl-piperazin-1-yl)-methanone
The title compound was synthesized in analogy to example 1, from 6-bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carboxylic acid hydrochloride (example 1, intermediate a) and 1-methylsulfonyl-piperazine to afford the title compound as a light-yellow solid (45%).

reactant | 6-bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carboxylic acid hydrochloride | Cl.BrC1=C(C=C2C=C(NC2=C1)C(=O)O)OC1CCN(CC1)C(C)C
reactant | 1-methylsulfonyl-piperazine | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
product | [6-Bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-(4-methanesulfonyl-piperazin-1-yl)-methanone | 45% | BrC1=C(C=C2C=C(NC2=C1)C(=O)N1CCN(CC1)S(=O)(=O)C)OC1CCN(CC1)C(C)C | C22H31BrN4O4S
